US04517188
A solution of o-phenylenediamine (5.4 g, 0.05 mole) and 2,2-dimethylsuccinic acid (7.5 g, 0.05 mole) in 50 mL of 4.8 N HCl was refluxed without condenser until the total volume was reduced to about 20 mL. Evaporation at 100° and 40 torr afforded a green paste which was taken up in 100 mL H2O and made alkaline (pH 9) with 20% NaOH. The mixture was filtered removing tarry matter and the clear yellow filtrate was concentrated, cooled and the pH adjusted to about 6 by addition of acetic acid. A light yellow solid precipitated and was isolated by filtration and dried in air to give 9 g of α,α-dimethyl-1H-2-benzimidazolepropanoic acid, m.p. 223°-226° (dec). Recrystallization from acetonitrile-methyl ethyl ketone-methanol (30-30-40) afforded 6.7 g (61%) of colorless needles, m.p. 266°-267° (dec).

reactant | o-phenylenediamine | 0.05 mole, 5.4 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 2,2-dimethylsuccinic acid | 0.05 mole, 7.5 g | CC(C(=O)O)(CC(=O)O)C | C6H10O4
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 4.8 N, 50 mL | Cl | ClH
solvent | H2O | 100 mL | O | H2O
product | α,α-dimethyl-1H-2-benzimidazolepropanoic acid | 9 g | CC(C(=O)O)(CC1=NC2=C(N1)C=CC=C2)C | C12H14N2O2
